US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-trifluoromethylphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-trifluoromethylphenyl)benzamide (256.0 mg, 0.474 mmol) and acetic anhydride (0.13 ml, 1.40 mmol), the procedure of Inventive Example 94 was repeated to obtain 267.0 mg (96.2%) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-trifluoromethylphenyl)benzamide | 0.474 mmol, 256.0 mg | NC1=CC=C(C(=O)N(C2=CC(=CC=C2)C(F)(F)F)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H27F4N3O2
reactant | acetic anhydride | 1.40 mmol, 0.13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-trifluoromethylphenyl)benzamide | 267.0 mg, 96.2% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC(=CC=C2)C(F)(F)F)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C30H29F4N3O3
